US06353006B1
(1S)-1-(Hydroxymethyl)-3-methylbutylamine was made from (L)-leucine methyl ester as described in Method B1b. The 2-hydroxyethylamine was converted to (1S)-1-(chloromethyl)-3-methylbutanammonium chloride as described in Method B7a. 3,5-Dimethyl-4-nitroaniline was converted to 3,5-Dimethyl-4-nitrophenyl isothiocyanate according to Method A2a, Step 3. 3,5-Dimethyl-4-nitrophenyl isothiocyanate was reacted with (1S)-1-(chloromethyl)-3-methylbutanammonium chloride according to Method C1a to give (4S)-2-(3,5-dimethyl-4-nitrophenylimino)-4-isobutyl-1,3-thiazolidine. The thiazolidine was reacted with isobutyl bromide according to Method D2a to give (4S)-2-(3,5-dimethyl-4-nitrophenylimino)-3,4-diisobutyl-1,3-thiazolidine.

reactant | (1S)-1-(Hydroxymethyl)-3-methylbutylamine | OC[C@H](CC(C)C)N | C6H15NO
reactant | (L)-leucine methyl ester | COC([C@@H](N)CC(C)C)=O | C7H15NO2
reactant | 2-hydroxyethylamine | OCCN | C2H7NO
reactant | 3,5-Dimethyl-4-nitroaniline | CC=1C=C(N)C=C(C1[N+](=O)[O-])C | C8H10N2O2
reactant | 3,5-Dimethyl-4-nitrophenyl isothiocyanate | CC=1C=C(C=C(C1[N+](=O)[O-])C)N=C=S | C9H8N2O2S
product | (4S)-2-(3,5-dimethyl-4-nitrophenylimino)-4-isobutyl-1,3-thiazolidine | CC=1C=C(C=C(C1[N+](=O)[O-])C)N=C1SC[C@@H](N1)CC(C)C | C15H21N3O2S
